US07271197B2
vi) 3-[(2-Hydroxyethoxy)methyl]benzonitrile
A solution of ethylene glycol (7.5 g) in DMF (50 ml) under nitrogen at 0° C. was treated portionwise with sodium hydride (1.35 g) and stirred for 0.5 h. 3-Cyanobenzylbromide (4.74 g) was then added and the solution was allowed to warm to room temperature and stirred for 4 h. The solution was then concentrated in vacuo to remove the DMF. The residue was taken up in EtOAc, washed with phosphate buffer (pH=6.5) and water, dried (MgSO4) and concentrated in vacuo. The residue was then purified by chromatography (Biotage, 2×90 g) eluting with 40-60° C. petroleum ether-EtOAc (1:1) to give the title compound (2.62 g). LCMS RT=2.07 min.

reactant | ethylene glycol | 7.5 g | C(CO)O | C2H6O2
reactant | sodium hydride | 1.35 g | [H-].[Na+]
reactant | 3-Cyanobenzylbromide | 4.74 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-[(2-Hydroxyethoxy)methyl]benzonitrile | 2.62 g | OCCOCC=1C=C(C#N)C=CC1 | C10H11NO2
